US08703937B2
5-(Benzyl) 1-tert-butyl 2-bromopentandioate, Compound XIII
5-(Benzyloxy)-2-bromo-5-oxopentanoic acid, 10.0 g (0.033 mole), was dissolved in chloroform, 20 mL. To this was added a solution of t-butyl trichloroacetimidate, 15.9 g (0.073 mole), dissolved in cyclohexane, 50 mL, drop-wise over 30 minutes. The mixture was allowed to stir an additional 5 minutes and boron trifluoride etherate, 100 μL, was added. The reaction mixture was allowed to stir overnight. Sodium bicarbonate, 5 g, was added. After stirring 10 minutes, hexanes, 50 mL, was added and the mixture filtered to remove the solids present. The filtrate was evaporated and the residue purified by flash chromatography, ethyl acetate-hexanes, to give a clear-colorless oil. The yield was 8.2 g, 69% based on starting 5-(Benzyloxy)-2-bromo-5-oxopentanoic acid. NMR is consistent with structure.

reactant | 5-(Benzyloxy)-2-bromo-5-oxopentanoic acid | C(C1=CC=CC=C1)OC(CCC(C(=O)O)Br)=O | C12H13BrO4
reactant | t-butyl trichloroacetimidate | ClC(C(OC(C)(C)C)=N)(Cl)Cl | C6H10Cl3NO
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
reactant | Sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 5-(Benzyl) 1-tert-butyl 2-bromopentandioate | BrC(C(=O)OC(C)(C)C)CCC(=O)OCC1=CC=CC=C1 | C16H21BrO4
